US05798374
The title compound was synthesized in a manner similar to that described in Example 1. 3-Methoxy-n-propyl isothiocyanate was prepared from 3-methoxy-n-propylamine and thiophosgene at high temperature and then reacted with hydrazine in pyridine to give the intermediate 4-(3-methoxy -n-propyl)-3-thiosemicarbazide. 4-(3-Methoxy-n-propyl)-3-thiosemicarbazide (1.64 g) was reacted with 1-ethyl-3-methylpyrazole-5-carboxylic acid chloride (1.73 g, prepared from the acid and oxalyl chloride) to give 2 g of 1-(1 ethyl-3-methylpyrazole-5-carbonyl)-4-(3-methoxy-n-propyl)-3-thiosemicarbazide. Treatment of 1-(1-ethyl-3-methylpyrazole-5-carbonyl)-4-(3-methoxy-n-propyl)-3-thiosemicarbazide with potassium hydroxide in ethanol gave 3-(1-ethyl-3-methylpyrazol-5-yl)-5-mercapto-4-(3-methoxy-n-propyl)-1,2,4-triazole. Reaction of the sodium salt of 3-(1-ethyl-3-methylpyrazol-5-yl)-5-mercapto-4-(3-methoxy-n-propyl)-1,2,4-triazole(0.73 g) with 2-bromo-5-nitrothiazole (0.52 g) yielded crude 3-(1 -ethyl-3-methylpyrazol-5-yl)-4-(3-methoxy-n-propyl)-5-[5-(nitrothiazol-2-yl)mercapto]-1,2,4-triazole as in Example 1. Crystallization from ethanol and water gave 0.3 g of 3-(1-ethyl-3-methylpyrazol-5-yl)-4-(3-methoxy-n-propyl)-5-[5-(nitrothiazol-2-yl)mercapto]-1,2,4-triazole, a light brown solid, MP 117°-118° C.

reactant | 4-(3-Methoxy-n-propyl)-3-thiosemicarbazide | 1.64 g | COCCCNC(NN)=S | C5H13N3OS
reactant | 1-ethyl-3-methylpyrazole-5-carboxylic acid chloride | C(C)N1N=C(C=C1C(=O)Cl)C | C7H9ClN2O
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 1-(1 ethyl-3-methylpyrazole-5-carbonyl)-4-(3-methoxy-n-propyl)-3-thiosemicarbazide | 2 g | C(C)N1N=C(C=C1C(=O)NNC(=S)NCCCOC)C | C12H21N5O2S
